US07960569B2
3-Bromo-1-(phenylsulfonyl)-1H-indole (7.45 g, 22.2 mmol), 2-isopropylbenzene boronic acid (4.00 g, 24.4 mmol), tetrakis(triphenylphosphine)palladium (0) (769 mg, 0.67 mmol) and sodium carbonate (7.05 g, 66.5 mmol) were combined in a round bottomed flask and placed under an argon atmosphere. Degassed solvent (3:1:1 toluene/ethanol/water) (100 mL) was added and the contents were heated to 80° C. for 14 h. Upon completion of the reaction, as determined by TLC, the phases were separated, the aqueous phase was extracted three times with 20 mL ethyl acetate and all the organic phases were combined, washed once with water (20 mL) and once with brine (20 mL). The organic phase was dried over Na2SO4, filtered, and the solvent was evaporated under reduced pressure to yield a dark residue which was purified by silica gel chromatography eluting with a gradient of ethyl acetate/hexanes to yield 3-(2-isopropylphenyl)-1-(phenylsulfonyl)-1H-indole (6.79 g, 82%) as a glassine solid. LC/MS (ESI+) 376.2 (M+H)+. 3-(2-Isopropylphenyl)-1-(phenylsulfonyl)-1H-indole (119 mg, 0.317 mmol) was combined with anhydrous tetrahydrofuran (2 mL) and tetra-n-butylammonium fluoride (1 M in THF, 1.3 mL) and heated to reflux for 14 h. Upon completion as observed by analysis by LC/MS the reaction was diluted with methanol (1 mL) and the solvent was evaporated under reduced pressure to yield a residue which was purified by silica gel chromatography eluting with a gradient of ethyl acetate/hexanes to yield 3-(2-isopropylphenyl)-1H-indole (67 mg, 90%) as a colorless glassine solid. LC/MS (ESI+) 236.23 (M+H)+. To 3-(2-isopropylphenyl)-1H-indole (23 mg, 0.10 mmol) in anhydrous tetrahydrofuran (1 mL) was added sodium bis(trimethylsilyl) amide solution (0.1 mL, 0.1 mmol, 1 M in tetrahydrofuran) and stirred for 15 min at ambient temperature. Isocyanatobenzene (0.1 mmol, 1.0 eq.) in THF (1 mL) was added and the reaction was stirred at ambient temperature. Upon completion as observed by analysis by LC/MS the reaction was diluted with methanol (1 mL) and the solvent was evaporated under reduced pressure to yield a residue which was purified by reverse phase HPLC chromatography eluting with a gradient of methanol/water to yield Example 1 (7.8 mg, 22%) as a colorless solid. LC/MS (ESI+) 355.23 (M+H)+.

reactant | 3-Bromo-1-(phenylsulfonyl)-1H-indole | 22.2 mmol, 7.45 g | BrC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C14H10BrNO2S
reactant | 2-isopropylbenzene boronic acid | 24.4 mmol, 4.00 g | C(C)(C)C1=C(C=CC=C1)B(O)O | C9H13BO2
reactant | sodium carbonate | 66.5 mmol, 7.05 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.67 mmol, 769 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene ethanol water | C1(=CC=CC=C1)C.C(C)O.O
product | 3-(2-isopropylphenyl)-1-(phenylsulfonyl)-1H-indole | 6.79 g, 82% | C(C)(C)C1=C(C=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C23H21NO2S
